US05646173
280 mg of 2-(2,2-dimethoxy-1-ethyl)-5-methoxy-1-tetralone N,N-dimethylhydrazone were dissolved in 12.5 ml of THF and added to 5 ml of phosphate buffer (prepared from 2 ml of 1/15M potassium dihydrogen phosphate and 3 ml of 1/15M disodium hydrogen phosphate) as well as 156 mg of copper (II) chloride dihydrate. After stirring at room temperature for 3.5 hours, the reaction had finished. The mixture was treated with 10 ml of 20% ammonium chloride solution and 0.8 ml of conc ammonia. Then, the mixture was extracted several times with ethyl acetate, dried over sodium sulfate, filtered and evaporated. The residue was chromatographed on silica gel firstly with toluene, then with toluene/ethyl acetate 9:1. 180 mg (80%) of 2-(2-oxoethyl)-5-methoxy-1-tetralone were obtained as a yellowish oil (Rf=0.31, silica gel (toluene/ethyl acetate 9:1)).

reactant | 2-(2,2-dimethoxy-1-ethyl)-5-methoxy-1-tetralone N,N-dimethylhydrazone | 280 mg | CN(N=C1C(CCC2=C(C=CC=C12)OC)CC(OC)OC)C | C17H26N2O3
reactant | phosphate | 15M, 5 ml | P(=O)([O-])([O-])[O-]
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
reactant | ammonia | 0.8 ml | N | H3N
solvent | THF | 12.5 ml | C1CCOC1 | C4H8O
catalyst | copper (II) chloride dihydrate | 156 mg | O.O.[Cu](Cl)Cl
product | 2-(2-oxoethyl)-5-methoxy-1-tetralone | 180 mg, 80% | O=CCC1C(C2=CC=CC(=C2CC1)OC)=O | C13H14O3
